data/polar.json
{"reaction_name": "Michael addition", "rsmi": "[C:1](#[N:16])[C:33]([C:2]#[N:17])=[CH:5][c:40]1[cH:10][cH:23][cH:41][cH:24][cH:11]1.[cH:3]1[cH:20][cH:28][c:35]([N:22]2[C:6](=[C:25]([c:4]3[cH:12][cH:36][cH:7][cH:37][cH:13]3)[O:8][CH3:38])[N:9]([c:44]3[cH:18][cH:31][cH:27][cH:32][cH:19]3)[N:39]=[C:30]2[c:26]2[cH:42][cH:14][cH:34][cH:15][cH:43]2)[cH:29][cH:21]1>>[C:1](=[N-:16])=[C:33]([C:2]#[N:17])[CH:5]([C:25]([c:4]1[cH:12][cH:36][cH:7][cH:37][cH:13]1)([c:6]1[n+:9](-[c:44]2[cH:18][cH:31][cH:27][cH:32][cH:19]2)[n:39][c:30](-[c:26]2[cH:42][cH:14][cH:34][cH:15][cH:43]2)[n:22]1-[c:35]1[cH:28][cH:20][cH:3][cH:21][cH:29]1)[O:8][CH3:38])[c:40]1[cH:10][cH:23][cH:41][cH:24][cH:11]1", "epd": [["LP-/Pi+", [9], [6, 9]], ["Pi-/Sigma+", [25, 6], [25, 5]], ["Pi-/Pi+", [5, 33], [33, 1]], ["Pi-/LP+", [1, 16], [16]]]}
{"reaction_name": "Phosphorane rearrangement", "rsmi": "[O:1]([P+:4]([O:2][CH3:6])([O:3][CH3:7])[CH2-:8])[CH3:5]>>[O:1]=[P:4]([O:2][CH3:6])([O:3][CH3:7])[CH2:8][CH3:5]", "epd": [["Sigma-/Pi+", [1, 5], [1, 4]], ["LP-/Sigma+", [8], [5, 8]]]}
{"reaction_name": "Conjugate addition to an electron-poor quinone", "rsmi": "[C:16]1([Cl:54])=[C:17]([Cl:55])[C:25](=[O:30])[C:40]([C:60]#[N:62])=[C:41]([C:61]#[N:63])[C:24]1=[O:29].[CH3:1][C:9]([CH3:2])([CH3:3])[c:31]1[cH:18][cH:34][cH:19][c:32]([C:10]([CH3:4])([CH3:5])[CH3:6])[c:22]1[N:33]1[C:13](=[CH:50][c:51]2[cH:42][cH:14][c:21]([N+:59](=[O:12])[O-:23])[cH:15][cH:43]2)[N:11]([c:26]2[c:37]([C:7]([CH3:44])([CH3:45])[CH3:46])[cH:35][cH:53][cH:36][c:38]2[C:8]([CH3:47])([CH3:48])[CH3:49])[N:58]=[C:39]1[c:20]1[cH:56][cH:27][cH:52][cH:28][cH:57]1>>[CH3:1][C:9]([CH3:2])([CH3:3])[c:31]1[cH:18][cH:34][cH:19][c:32]([C:10]([CH3:4])([CH3:5])[CH3:6])[c:22]1-[n:33]1[c:13]([CH:50]([C:40]2([C:60]#[N:62])[C:25](=[O:30])[C:17]([Cl:55])=[C:16]([Cl:54])[C:24]([O-:29])=[C:41]2[C:61]#[N:63])[c:51]2[cH:42][cH:14][c:21]([N+:59](=[O:12])[O-:23])[cH:15][cH:43]2)[n+:11](-[c:26]2[c:37]([C:7]([CH3:44])([CH3:45])[CH3:46])[cH:35][cH:53][cH:36][c:38]2[C:8]([CH3:47])([CH3:48])[CH3:49])[n:58][c:39]1-[c:20]1[cH:56][cH:27][cH:52][cH:28][cH:57]1", "epd": [["LP-/Pi+", [11], [11, 13]], ["Pi-/Sigma+", [13, 50], [40, 50]], ["Pi-/Pi+", [40, 41], [24, 41]], ["Pi-/LP+", [24, 29], [29]]]}
{"reaction_name": "σ-Adduct formation on a neutral electron-poor arene / heteroarene", "rsmi": "[CH2:3]1[N:15]2[CH2:4][CH2:20][N:8]([CH2:39][c:10]3[cH:22][cH:26][cH:33][cH:27][cH:23]3)[c:31]3[c:11]2[c:30]([cH:16][n:12][cH:17]3)[N:7]([CH2:38][c:9]2[cH:21][cH:25][cH:32][cH:28][cH:24]2)[CH2:19]1.[c:1]12[c:29]([n:5][o:37][n+:36]1[O-:2])[n:18][c:13]([O:34][CH3:14])[n:6][cH:35]2>>[c:1]12[c:29]([n:5][o:37][n+:36]1[O-:2])[N:18]=[C:13]([O:34][CH3:14])[N-:6][CH:35]2[N:12]1[CH:16]=[C:30]2[N:7]([CH2:38][c:9]3[cH:21][cH:25][cH:32][cH:28][cH:24]3)[CH2:19][CH2:3][N+:15]3=[C:11]2[C:31](=[CH:17]1)[N:8]([CH2:39][c:10]1[cH:22][cH:26][cH:33][cH:27][cH:23]1)[CH2:20][CH2:4]3", "epd": [["LP-/Pi+", [15], [11, 15]], ["Pi-/Pi+", [30, 11], [16, 30]], ["Pi-/Sigma+", [12, 16], [12, 35]], ["Pi-/LP+", [35, 6], [6]]]}
{"reaction_name": "Nucleophilic addition to electrophilic azo nitrogen", "rsmi": "[C:3](=[O:18])([O:28][CH2:5][c:16]1[cH:21][cH:9][cH:13][cH:12][cH:24]1)[N:31]=[N:30][C:4](=[O:19])[O:29][CH2:6][c:17]1[cH:22][cH:10][cH:14][cH:11][cH:23]1.[O-:1][C:27](=[CH:2][c:15]1[cH:25][cH:7][cH:33][cH:8][cH:26]1)[O:32][CH2:34][CH3:20]>>[O:1]=[C:27]([CH:2]([c:15]1[cH:25][cH:7][cH:33][cH:8][cH:26]1)[N:30]([C:4](=[O:19])[O:29][CH2:6][c:17]1[cH:22][cH:10][cH:14][cH:11][cH:23]1)[N:31]=[C:3]([O-:18])[O:28][CH2:5][c:16]1[cH:21][cH:9][cH:13][cH:12][cH:24]1)[O:32][CH2:34][CH3:20]", "epd": [["LP-/Pi+", [1], [27, 1]], ["Pi-/Sigma+", [2, 27], [2, 30]], ["Pi-/Pi+", [30, 31], [31, 3]], ["Pi-/LP+", [3, 18], [18]]]}
{"reaction_name": "Electrophilic iodination", "rsmi": "[CH2:3]=[CH2:4].[I:1][I:2]>>[I:1][CH2:3][CH2:4][I:2]", "epd": [["Pi-/Sigma+", [3, 4], [1, 3]], ["Sigma-/Sigma+", [1, 2], [2, 4]]]}
{"reaction_name": "Anchimeric-assistance rearrangement", "rsmi": "[O:1]([CH2:3][CH2:4][Cl:2])[CH3:5]>>[Cl-:2].[O+:1]1([CH3:5])[CH2:3][CH2:4]1", "epd": [["LP-/Sigma+", [1], [1, 4]], ["Sigma-/LP+", [2, 4], [2]]]}
{"reaction_name": "Electrophilic chlorination", "rsmi": "[C:1]1([Cl:22])=[C:43]([Cl:17])[C:44]([Cl:27])=[C:10]([Cl:24])[C:40]([Cl:5])([Cl:6])[C:20]1=[O:23].[cH:2]1[cH:18][cH:29][c:35]([N:21]2[C:4](=[C:25]([c:3]3[cH:11][cH:36][cH:7][cH:37][cH:12]3)[O:8][CH3:38])[N:9]([c:45]3[cH:15][cH:32][cH:28][cH:33][cH:16]3)[N:39]=[C:31]2[c:26]2[cH:41][cH:13][cH:34][cH:14][cH:42]2)[cH:30][cH:19]1>>[c:1]1([Cl:22])[c:20]([O-:23])[c:40]([Cl:6])[c:10]([Cl:24])[c:44]([Cl:27])[c:43]1[Cl:17].[cH:2]1[cH:18][cH:29][c:35](-[n:21]2[c:4]([C:25]([c:3]3[cH:11][cH:36][cH:7][cH:37][cH:12]3)([Cl:5])[O:8][CH3:38])[n+:9](-[c:45]3[cH:15][cH:32][cH:28][cH:33][cH:16]3)[n:39][c:31]2-[c:26]2[cH:41][cH:13][cH:34][cH:14][cH:42]2)[cH:30][cH:19]1", "epd": [["LP-/Pi+", [9], [4, 9]], ["Pi-/Sigma+", [25, 4], [25, 5]], ["Sigma-/Pi+", [5, 40], [40, 20]], ["Pi-/LP+", [20, 23], [23]]]}
